US06740642B2
C] 1-(2-Chloroethyl)-3-(4-pyridinyl)-1H-pyrazole was prepared according to example 14C from 1-(2-hydroxyethyl)-3-(4-pyridinyl)-1H-pyrazole by treatment with SOCl2. MS (EI): 207.1 (M+). 1H-NMR (DMSO-d6): 4,06 (t, 2H), 4.53 (t, 2H), 6.92 (d, 1H), 7.76 (m, 2H), 7.93 (d, 1H), 8.58 (m, 2H).

reactant | 1-(2-hydroxyethyl)-3-(4-pyridinyl)-1H-pyrazole | OCCN1N=C(C=C1)C1=CC=NC=C1 | C10H11N3O
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 1-(2-Chloroethyl)-3-(4-pyridinyl)-1H-pyrazole | ClCCN1N=C(C=C1)C1=CC=NC=C1 | C10H10ClN3
